US07034039B2
Tert-butyl[6-(2-amino-2-oxoethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (95 mg, 0.2 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 2 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from methanol-diisopropyl ether to give 2-[3-(aminomethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]acetamide hydrochloride (75 mg, 91.5%) as crystals.

reactant | Tert-butyl[6-(2-amino-2-oxoethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.2 mmol, 95 mg | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CC(=O)N)=O)CC(C)(C)C)=O | C26H39N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-6-isoquinolinyl]acetamide hydrochloride | 75 mg, 91.5% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CC(=O)N)=O)CC(C)(C)C | InChI=1S/C21H31N3O3.ClH/c1-5-6-9-27-19-16-10-14(11-18(23)25)7-8-15(16)20(26)24(17(19)12-22)13-21(2,3)4;/h7-8,10H,5-6,9,11-13,22H2,1-4H3,(H2,23,25);1H
